US08012956B2
Methyl 4-iodo-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate (401 mg, 0.966 mmol) was dissolved in DMF (9 mL) and the mixture was sparged with nitrogen for 15 minutes. Zinc cyanide (79 mg, 0.673 mmol) and tetrakis(triphenylphosphine)palladium(0) (100 mg, 0.086 mmol) were added and the mixture was stirred at 100° C. for 15 h. The reaction mixture was cooled to ambient temperature and was filtered through celite. The filter cake was washed with ethyl acetate and the filtrate was washed with 5% lithium chloride (2×). The combined aqueous wash was back-extracted with ethyl acetate. The combined organic portion was washed with brine, dried over sodium sulfate, then filtered and concentrated to afford a brown semi-solid which was purified by column chromatography (silica gel, 30-50% dichloromethane in hexanes) to afford methyl 4-cyano-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate (262 mg, 0.834 mmol, 86% yield) as colorless crystals. 1H NMR (400 MHz, CDCl3): δ 7.71 (s, 1H), 6.96 (s, 1H), 4.76 (d, 1H), 3.94 (s, 3H), 3.49-3.38 (m, 1H), 1.75-1.63 (m, 2H), 1.61-1.49 (m, 2H), 0.96 (t, 6H); GCMS for C15H17F3N2O2: 314 (M+).

reactant | Methyl 4-iodo-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate | 0.966 mmol, 401 mg | IC1=CC(=C(C(=O)OC)C=C1NC(CC)CC)C(F)(F)F | C14H17F3INO2
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 0.673 mmol, 79 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.086 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-cyano-5-(pentan-3-ylamino)-2-(trifluoromethyl)benzoate | 0.834 mmol, 262 mg, 86% yield | C(#N)C1=CC(=C(C(=O)OC)C=C1NC(CC)CC)C(F)(F)F | C15H17F3N2O2
